US06610722B2
Step A: Preparation of 3-(tert-butyldiphenylsilyl)oxy-1-iodobenzene
A solution of 3-iodophenol (3.36 g, 15.3 mmol), tert-butyldiphenylsilylchloride (4.17 mL, 16.0 mmol), and imidazole (1.48 g, 21.7 mmol) in DMF (30 mL) was heated to 60° C. for 72 hours. The solvent was removed in vacuo and the residue partitioned between saturated sodium bicarbonate (50 mL) and methylene chloride (50 mL). The layers were separated and the aqueous layer washed with methylene chloride (2×50 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to provide a yellow oil. The crude product was purified by column chromatography (0→20% ethyl acetate/hexane) to provide the title compound as a clear oil.

reactant | 3-iodophenol | 15.3 mmol, 3.36 g | IC=1C=C(C=CC1)O | C6H5IO
reactant | tert-butyldiphenylsilylchloride | 16.0 mmol, 4.17 mL | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 21.7 mmol, 1.48 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 3-(tert-butyldiphenylsilyl)oxy-1-iodobenzene | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC=1C=C(C=CC1)I | C22H23IOSi
